US20010016587A1
4-chloro-5-formyl-2-(4-nitrophenyl)imidazole (Compound 6)
HCl gas was bubbled through a solution of 2-(4-nitrobenzylidene)amino-3,3-dichloro-propenonitrile (40.0 g, 0.148 mole) in dioxane (500 ml) at room temperature. The mixture was stirred for 23 hours at 50° C. HCl gas was bubbled through followed by stirring for 24 hours at 50° C. The mixture was stirred for 8 more days at 50° C. with addition of HCl-gas every 24 hours, followed by stirring at 50° C. for 4 more days. More HCl-gas was added and stirred for 3 more days at 500C. The solution was cooled to 0° C. and filtered. The residue was mixed with ethanol (96%, 200 ml) and the title compound, Compound 6, was isolated by filration.

reactant | HCl | Cl | ClH
reactant | 2-(4-nitrobenzylidene)amino-3,3-dichloro-propenonitrile | 0.148 mole, 40.0 g | [N+](=O)([O-])C1=CC=C(C=NC(C#N)=C(Cl)Cl)C=C1 | C10H5Cl2N3O2
reactant | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 4-chloro-5-formyl-2-(4-nitrophenyl)imidazole | ClC=1N=C(NC1C=O)C1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
